US09126949B2
Pyridine hydrochloride (23 gm) was added to 4-(4-methoxypyrimidin-2-ylamino)benzonitrile (15 gm) and then heated to 150 to 160° C. for 3 hours. The mixture was then cooled to room temperature, then transferred in to ice water and stirred for 1 hour. The resulting precipitate was filtered and washed with water. The solid thus obtained was slurried in acetonitrile at 0 to 5° C. for 1 hour and filtered. The solid obtained was dried to give 12.3 gm of 4-(4-hydroxypyrimidin-2-ylamino)benzonitrile.

reactant | Pyridine hydrochloride | 23 gm | Cl.N1=CC=CC=C1
reactant | 4-(4-methoxypyrimidin-2-ylamino)benzonitrile | 15 gm | COC1=NC(=NC=C1)NC1=CC=C(C#N)C=C1 | C12H10N4O
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-(4-hydroxypyrimidin-2-ylamino)benzonitrile | 12.3 gm | OC1=NC(=NC=C1)NC1=CC=C(C#N)C=C1 | C11H8N4O
